US07538112B2
Step 11: (6S)-2-(3-Chloro-4-fluorobenzyl)-8-ethyl-10-methoxy-N,6-dimethyl-1,9-dioxo-1,2,6,7,8,9-hexahydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-4-carboxamide
To a cold (0° C.) solution of (6S)-8-ethyl-10-methoxy-N,6-dimethyl-1,9-dioxo-1,2,6,7,8,9-hexahydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-4-carboxamide (1.58 g, 4.73 mmol) in anhydrous DMF (50 mL), a solution of lithium bis(trimethylsilyl)amide (4.97 mL, 4.97 mmol, 1 M in THF) was added. After stirring at the same temperature for 25 minutes, 3-chloro-4-fluorobenzyl bromide (1.27 g, 5.68 mmol) was added. The reaction mixture was stirred at room temperature for 10 minutes and concentrated under vacuum. The residue was partitioned between chloroform and brine. The organic extract was dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with a 1-5% methanol in ethyl acetate gradient. Collection and concentration of appropriate fractions provided the title compound.

reactant | (6S)-8-ethyl-10-methoxy-N,6-dimethyl-1,9-dioxo-1,2,6,7,8,9-hexahydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-4-carboxamide | 4.73 mmol, 1.58 g | C(C)N1C(C2=C(C3=C(C(=NNC3=O)C(=O)NC)N2[C@H](C1)C)OC)=O | C15H19N5O4
reactant | lithium bis(trimethylsilyl)amide | 4.97 mmol, 1 M, 4.97 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-chloro-4-fluorobenzyl bromide | 5.68 mmol, 1.27 g | ClC=1C=C(CBr)C=CC1F | C7H5BrClF
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (6S)-2-(3-Chloro-4-fluorobenzyl)-8-ethyl-10-methoxy-N,6-dimethyl-1,9-dioxo-1,2,6,7,8,9-hexahydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-4-carboxamide | ClC=1C=C(CN2N=C(C3=C(C2=O)C(=C2N3[C@H](CN(C2=O)CC)C)OC)C(=O)NC)C=CC1F | C22H23ClFN5O4
